US06228872B1
(S)-2-(2-Methoxycarbonylvinyl)-pyrrolidine-1-carboxylic acid t-butyl ester
To a solution of oxalyl chloride (2.0M in methylene chloride, 9.60 mL, 19.2 mmol) in methylene chloride (100 mL) at −60° C. was added a solution of dimethyl sulfoxide (3.01 g, 38.6 mmol) in methylene chloride (10 mL) and the mixture was stirred for 5 min. A solution of (S)-(−)-1-(t-butoxycarbonyl)-2-pyrrolidinemethanol (3.08 g, 15.3 mmol) in methylene chloride (20 mL) was added dropwise over 5 min. After 30 min, triethylamine (12.8 mL, 91.8 mmol) was added and the reaction mixture was stirred at −60° C. for 15 min and then warmed to rt for a further 10 min. Water (50 mL) was added and the mixture extracted with methylene chloride. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The crude residue was dissolved in methylene chloride (100 mL) and treated with methyl (triphenylphosphoranylidene)acetate (1.4 eq). After 15 h the reaction mixture was concentrated and purified by silica gel chromatography to give the desired product (3.54 g, 90%).

reactant | oxalyl chloride | 19.2 mmol, 2.0M, 9.60 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 38.6 mmol, 3.01 g | CS(=O)C | C2H6OS
reactant | (S)-(−)-1-(t-butoxycarbonyl)-2-pyrrolidinemethanol | 15.3 mmol, 3.08 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | triethylamine | 91.8 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | methyl (triphenylphosphoranylidene)acetate | 1.4 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 50 mL | O | H2O
product | (S)-2-(2-Methoxycarbonylvinyl)-pyrrolidine-1-carboxylic acid t-butyl ester | 3.54 g, 90% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=CC(=O)OC | C13H21NO4
